US06169086A
1) Preparation of 3-[4-(3,5-Dichlorophenyl)-1-piperazinyl]-1-[5-methyl-1-(2-pyridyl)-4-pyrazolyl]-1-propanone Hydrochloride
In 150 ml of absolute ethanol was dissolved 2.26 g of 4-acetyl-1-(2-pyridyl)-5-methylpyrazole, and 2.94 g of 1-(3,5-dichlorophenyl)piperazine hydrochloride and 0.9 g of p-formaldehyde were added to the solution, followed by refluxing for 6 hours. To the reaction mixture was further added 0.40 g of p-formaldehyde, and the refluxing was continued for an additional 24 hour period. About a half of the ethanol was removed by evaporation, and the precipitate was collected by filtration. The precipitate was dissolved in chloroform, washed successively with a saturated aqueous solution of sodium hydrogencarbonate and a saturated aqueous solution of sodium chloride, and dried over anhydrous sodium sulfate. The solvent was removed by evaporation, and the residue was subjected to column chromatography on silica gel using a mixture of chloroform-methanol (50:1 by volume) as a developing solvent. The fraction containing the desired compound was concentrated. A 1N hydrochloric acid/ethanol solution was added to the residue, followed by concentration. The residue was recrystallized from ethanol to yield 2.90 g of the title compound.

reactant | 4-acetyl-1-(2-pyridyl)-5-methylpyrazole | 2.26 g | C(C)(=O)C=1C=NN(C1C)C1=NC=CC=C1 | C11H11N3O
reactant | 1-(3,5-dichlorophenyl)piperazine hydrochloride | 2.94 g | Cl.ClC=1C=C(C=C(C1)Cl)N1CCNCC1
reactant | ethanol | 150 ml | C(C)O | C2H6O
product | 3-[4-(3,5-Dichlorophenyl)-1-piperazinyl]-1-[5-methyl-1-(2-pyridyl)-4-pyrazolyl]-1-propanone Hydrochloride | 2.90 g | Cl.ClC=1C=C(C=C(C1)Cl)N1CCN(CC1)CCC(=O)C=1C=NN(C1C)C1=NC=CC=C1 | InChI=1S/C22H23Cl2N5O.ClH/c1-16-20(15-26-29(16)22-4-2-3-6-25-22)21(30)5-7-27-8-10-28(11-9-27)19-13-17(23)12-18(24)14-19;/h2-4,6,12-15H,5,7-11H2,1H3;1H
